US04704459
In 6 ml of 6N hydrochloric acid was suspended 1.00 g of ethyl 7-(3-amino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate, and the resulting suspension was subjected to reaction under reflux for 2 hours. Subsequently, 6 ml of water was added thereto and crystals were collected by filtration, and then washed with 2 ml of water to obtain 920 mg (yield 90.2%) of 7-(3-amino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride having a melting point of 247°-250° C. (decomp.). The physical properties of this compound were identical with those of the compound obtained in Example 54.

reactant | ethyl 7-(3-amino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 1.00 g | NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F | C21H19F3N4O3
reactant | water | 6 ml | O | H2O
reactant | hydrochloric acid | 6N, 6 ml | Cl | ClH
product | 7-(3-amino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride | 920 mg, yield 90.2% | Cl.NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F | InChI=1S/C19H15F3N4O3.ClH/c20-9-1-2-15(13(21)5-9)26-8-12(19(28)29)16(27)11-6-14(22)18(24-17(11)26)25-4-3-10(23)7-25;/h1-2,5-6,8,10H,3-4,7,23H2,(H,28,29);1H
